US05789394
1-t-BUTYLDIMETHYLSILYLOXY-2,3-DIMERCAPTOPROPANE
To a solution of 2,3-dimercapto-1-propanol (15.0 ml, 150 mmol) and imidazole (15.3 g, 224 mmol, 1.5 eq) in THF (300 mL) was added t-butyldimethylsilyl chloride (21.4 g, 142 mmol, 0.95 eq) at 0° C. The mixture was stirred at 0° C. for 1 hr and at room temperature for 18 hr. A saturated solution of ammonium chloride was added and the aqueous phase was extracted with dichloromethane. The organic layer was dried with anhydrous sodium sulphate and the solvent was evaporated under reduced pressure. The crude material was purified by flash chromatography with a mixture of hexane and ethyl acetate (90:10) to give the pure compound (32.04 g) in 94.5% yield. 1H NMR (300 MHz, CDCl3) δ: 0.08 (s, 6H, CH3), 0.91 (s, 9H, t-butyl), 1.58 (t, 1H, J=8.5 Hz, SH), 1.82 (d, 1H, J=9.2 Hz, SH), 2.85 (m, 2H, H-3), 2.96 (m, 1H, H-2), 3.63 (dd, 1H, J=6.7 Hz, 10.1 Hz, H-1a), 3.86 (dd, 1H, J=4.4 Hz, 10.2 Hz, H-1b).

reactant | 2,3-dimercapto-1-propanol | 150 mmol, 15.0 ml | SC(CO)CS | C3H8OS2
reactant | imidazole | 224 mmol, 15.3 g, 1.5 eq | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 142 mmol, 21.4 g, 0.95 eq | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-t-BUTYLDIMETHYLSILYLOXY-2,3-DIMERCAPTOPROPANE | 32.04 g, 94.5% yield | [Si](C)(C)(C(C)(C)C)OCC(CS)S | C9H22OS2Si
